2193-10-29 05:11:00 Physician Resident Progress Note
Chief Complaint:
   HPI:
     * Were planning to do Dx paracentisis but platelets 13. Wanted to
       give platelets but as per transfusion medicine platelet transfusion
       contraindicated in HIT-Ab positive patients unless patient acutely
       bleeding. Decided to defer paracentisis esp since already treating
       empirically.
     * Called by nurse for patient w/BRB from NG tube - approx 200cc ->
       foley and chest tube also draining blood-tinged fluid.  Called
       hepatology, heme-onc.  Thought likely DIC - DIC labs sent.  Gave
       FFP x2 units, platelets, ordered 2 units prbc but did not give.
     * Cryoprecipitate given at 2am b/c of +DIC labs.
     * Hematology recs: pancytopenia is likely a combination of DIC +
       marrow suppression from immunosuppressive therapy used for UC. send
       labs for DIC and correcting coagulopathy (cryoglobulin for
       fibrinogen <100, FFP for INR >2.0, and platelets for any active
       bleeding or for platelet count <10,000). Can also try vitamin K,
       but unclear how helpful this will be as liver is likely not making
       clotting factors at this time. Also discussed with team that
       patient is likely neutropenic (ANC was 970 earlier today, but WBC
       has since dropped further) so would
     * changed ceftriaxone to cefepime for the time being to broaden
       coverage
     * CT abdomen/Pelvis: progression of splanchnic thrombus, now
       occluding L and R portal veins. Focal thrombus w/in the dilated SMV
       at the SMV-portal vein confluence. The SMV is still patent,
       however.  Some increase in ascites.  Signs of portal-htn:
       intra-abdominal, paraesophageal varices and splenomegally.  Small
       bowel thickening (likely related to ascites and venous congestion
       from splanchnic thrombus).
     * Patient with Afib w/RVR overnight. Did not want to use BB or CCB
       b/c of potential for hemmorhage and drop in BP. Gave fluids, HR
       stabilized.
     * 1 episode of BRBPR at 1:30am - Hct re-sent
     * Spoke with family, updated them [1]of the patient's condition.
     * 4x loose maroon stools ON
   Allergies:
   Demerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Morphine Sulfate
   Nausea/Vomiting
   Heparin Agents
   HIT Positive;
   Last dose of Antibiotics:
   Rifaximin
   Vancomycin
   Cefipime
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-10-28**] 09:00 AM
   Pantoprazole (Protonix) - [**2193-10-28**] 10:30 PM
   Morphine Sulfate - [**2193-10-28**] 11:00 PM
   Other medications:
   Past medical history:
   Family history:
   Social History:
   Occupation:
   Drugs:
   Tobacco:
   Alcohol:
   Other:
   Review of systems:
   Patient denies pain, states it is a
much better day
 when on asked on
   rounds how she was doing.
   Flowsheet Data as of [**2193-10-29**] 05:09 AM
   Vital Signs
   Hemodynamic monitoring
   Fluid Balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.8
C (96.5
   HR: 103 (89 - 140) bpm
   BP: 132/74(86) {102/57(66) - 134/75(88)} mmHg
   RR: 5 (6 - 24) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  4,606 mL
                                                                    517 mL
   PO:
           TF:
                                                                    541 mL
   IVF:
                                                                  2,970 mL
                                                                    101 mL
   Blood products:
                                                                    795 mL
                                                                    416 mL
   Total out:
                                                                  1,830 mL
                                                                    265 mL
   Urine:
                                                                  1,410 mL
                                                                    245 mL
   NG:
                                                                    150 mL
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                  2,776 mL
                                                                    252 mL
   Respiratory
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.45/47/77.[**Numeric Identifier 96**]/31/7 (3am)
   Physical Examination
   Gen: Cachetic frail jaundiced, appears comfortable in no acute
   distress. Denies pain anywhere but is not oriented and is very
   somnolent
   HEENT: PERRL, EOMI, sclerae icteric, MM slightly dry
   CV: RRR no m/r/g. R EJ in place with dressing c/d./i
   Resp: Left sideded chest tube in place draining serosanguenous fluid.
   Echymosis over anterior chest wall.  Dressing clean, breath sounds
   present bilaterally w/wheezes at L apex.
   Abd: soft, less distended today, no bowel sounds, no pain on palpation,
   no rebound or guarding
   Extrem: 3+ pitting edema b/l to knees, worse compared to prior exam
   Skin: occasional ecchymoses, spider angiomas
   Neuro: somnolent, not oriented, clearly more confused this morning. No
   asterixis appreciated.  Repeats over and over that patient wants to
   in the right place
 but does not otherwise specify.
   Labs / Radiology
   27 K/uL
   9.8 g/dL
   143 mg/dL
   0.8 mg/dL
   27 mg/dL
   31 mEq/L
   98 mEq/L
   3.8 mEq/L
   136 mEq/L
   26
   0.7 K/uL
        [image002.jpg]
                                  [**2190-12-6**]
                         2:33 A11/23/[**2192**]  11:55 AM
                                  [**2190-12-10**]
                         10:20 P11/23/[**2192**]  04:00 PM
                                  [**2190-12-11**]
                         1:20 P11/23/[**2192**]  08:34 PM
                                  [**2190-12-12**]
                         11:50 P11/24/[**2192**]  04:52 AM
                                  [**2190-12-13**]
                         1:20 A11/24/[**2192**]  03:00 PM
                                  [**2190-12-14**]
                         7:20 P11/24/[**2192**]  08:14 PM
                                  1//11/006
                         1:23 P11/24/[**2192**]  09:48 PM
                                  [**2191-1-6**]
                         1:20 P11/25/[**2192**]  12:29 AM
                                  [**2191-1-6**]
                         11:20 P11/25/[**2192**]  03:00 AM
                                  [**2191-1-6**]
                                   4:20 P
   WBC
                                     2.4
                                     2.3
                                     1.8
                                     1.1
                                     0.7
                                     0.8
                                     0.7
   Hct
                                    28.0
                                    29.8
                                    29.1
                                    29.0
                                    26.5
                                    27.7
                                    27.0
                                     26
   Plt
                                     40
                                     31
                                     32
                                     30
                                     17
                                     16
                                     33
                                     27
   Cr
                                     1.0
                                     0.6
                                     0.9
                                     1.0
                                     0.8
   TropT
                                    0.02
   TC02
                                     34
   Glucose
                                     141
                                     184
                                     156
                                     144
                                     143
   Other labs:
   Ca++:10.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   PT / PTT / INR:18.9/38.0/1.8
   CK / CKMB / Troponin-T:29/not tested/0.02
   ALT / AST:49/36, Alk Phos / T Bili:167/28.2, Amylase / Lipase:153/23
   DIC labs: FDP: 160-320, D-dimer:2686 ng/mL, Fibrinogen:111 mg/dL
   Lactic Acid:1.9 mmol/L (from 2.9), Albumin:3.3 g/dL, LDH:235 IU/L
   BCx [**1-5**] from [**10-26**], [**1-5**] from [**10-27**] w/MRSA, pleural fluid with staph
   aureus.
   Cath tip [**10-27**] pending
   Abdominal CT: CT abdomen/Pelvis: progression of splanchnic thrombus,
   now occluding L and R portal veins. Focal thrombus w/in the dilated SMV
   at the SMV-portal vein confluence. The SMV is still patent, however.
   Some increase in ascites.  Signs of portal-htn: intra-abdominal,
   paraesophageal varices and splenomegally.  Small bowel thickening
   (likely related to ascites and venous congestion from splanchnic
   thrombus).
   Assessment and Plan
   Mrs. [**Known lastname 6410**] is a 61 yo F w/cirrhosis [**1-5**] UC/PSC, severe LGIB [**1-5**] UC,
   h/o HIT transferred from OSH with acute decompensated hepatic failure
   and anemia, found to have large left pneumothorax with concern for
   progression to tension PTX prompting emergent ICU transfer and CT
   placement.
   .
   #Acute Hepatic Decompensation/PBC - most likely [**1-5**] portal vein
   thrombosis seen on RUQ u/s on admission.  CT showed that clot extended.
   SMV still has some flow. Bowel wall thickening, intrahepatic, and
   esophageal varices noted as well.  Unfortunately given severe LGIB [**1-5**]
   ulcerative colitis patient is not a candidate for anticoagulation.
   Other possiblity could be SBP given h/o refractory ascites.  Could not
   tap b/c of low platelets but treating empirically with ceftriaxone.
   Switched to Cefipime for broadened coverage.  Not a transplant
   candidate currently due to UC and sepsis.  Patient with worsening
   mental status. Lactulose held last night in setting of UGI bleed,
   likely contributing to depressed mental status today.
   - give lactulose as BP tolerates, hold if multiple BMs as per
   hepatology
s recommendation.
   - hold paracentesis and treat empirically for SBP
   - additional hepatology recs: avoid morphine, give neupogen, hold 6-MP,
   Remicaid
   - f/u with GI and transplant surgery recommendations
   -continue cefipime to cover for SBP (day #1 = [**2193-10-26**])
   -continue lactulose, rifaxamin, ursodiol as tolerated
   -if hepatic failure improves would benefit from TIPS given portal vein
   thrombosis
   -if suspect variceal bleed, start octreotide drip and call hepatology
   asap (as per liver fellow recs)
   .
   # Thrombocytopenia/Coagulopathy: Likely secondary to liver disease c/w
   DIC/sepsis.  Patient given Neupogen last night.  Hematology consulted
   last night during episode of acute bleed.  Peripheral smear with
   schisocytes, several other types of dysmorphic RBCs.  Platelets down to
   13 in setting of acute bleed. Given 1 unit of platelets last night
   w/acute bleed, platelets 27 this am.  Also give FFP x2 units and 1 unit
   of cryoprecipitate given positive DIC labs.  No PRBC given yesterday
   b/c HCt maintained.   Bleeding from NG, foley has eased up, but patient
   has had several melanotic stools/BRBPR and bloody fluid from chest
   tube.  INR 1.8.  Neupogen given yesterday.
   -  1 unit platelets now
   - 2 U PRBC now
   - to consider FFP
   - re-check DIC labs (FDP, fibrinogen) -> consider cryoprecipitate based
   on results
   - repeat coags, Ch10 in am
   - will recheck CBC in the afternoon and consider platelet transfusion
   and FFP
   - f/u hematology recs
   .
   # Staph bacteremia - One blood culture bottle from OSH drawn from CVL
   is positive.  Culture here positive for coag positive SA in [**3-8**]
   bottles.  Line changed.  Chest CT showed no abcesses, although pleural
   fluid had many WBCs, now growing G+ cocci.  Skin exam shows no foci for
   bacteremia, though patient has Hx of MRSA skin infections.  Still
   unclear primary source of bacteremia.
   -continue vanc, day #1 = [**2193-10-26**]
   -serial blood cultures
   -check echo for potential source
   .
   #Pneumothorax - most likely slowly developing following placement of L
   subclavian line at OSH given no PTX, possibly progressing to
   hemodynamic compromise resulting in tachycardia and hypotension on the
   floor.  Now s/p chest tube placement with post CT xray showing
   reexpansion of her left lung.  Chest CT showed residual pneumothorax,
   but chest tube was sealed while at CT.  Again, post CT xray showed no
   pneumothorax.
   -continue chest tube to suction
   -monitor serial CXR's
   -f/u CT [**Doctor First Name 458**] reccs
   -when patient leaves to go to CT, will place on wall suction per CT
   surgery, will place back on suction and get repeat CXR this afternoon
   .
   #Atrial Fibrillation/Flutter - she has been going in and out PAF with
   rate up to 150's, BP stable since CT placed.  Has resolved with IVF,
   have avoided rate controlling agents for now given episodic hypotension
   and GI bleeding
   -continue to monitor on tele
   -IVF for tachycardia.
   .
   #. Ulcerative colitis: She has severe/refractory disease despite
   steroid treatment. Recently finished a course of cipro/flagyl as
   inpt/oupt.  Recently treated with remicaid on [**10-10**] followed by
   prednisone.
   - changed to stress dose hydrocoritsone
   - d/c mesalamine per liver reccs
   - hold remicade this week (last infused on [**10-10**]) in setting of
   pancytopenia.
   - hold 6MP in setting of pancytopenia
   - GI team aware and will see patient
   - continue to monitor HCT and transfuse PRBC, FFP, platelets prn with
   goal HCT >28 given continue bleeing.
   - per liver team consider KUB if develops increased bleeding to r/o
   toxic megacolon but will get CT scan today
   . .
   # FEN: NGT placed for tube feed to improve nutrition status, regular
   diet as well, replete lytes prn HRS
   .
   # Access: EJ in place, 2 PIV (22 and 20 gauge). Should consider placing
   larger bore IV for resuscitation before acute decompensation occurs.
   .
   #Code status: presumed Full Code. Should discuss with family in light
   of current health issues.
   .
   #Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2193-10-27**] 06:00 PM
   20 Gauge - [**2193-10-28**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
References
   1. [**University/College 6662**]

2193-10-29 09:12:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo women with UC and PBC admitted with MRSA bacteremia,
   pancytopenia.
   24 Hour Events:
   Patient with blood from NG tube and blood from urine.  However Hct
   remained stable.  Seen by heme who felt that she probably had component
   of DIC, and gave recommendations for transfusion.    Got cryo for
   fibrinogen of 111.  Had AF with increased HR overnight then reverted to
   sinus rhythm.  MS poor this morning.  Is somewhat somnolent with
   decreased RR.    Received boluses of morphine.
   Allergies:
   Demerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Morphine Sulfate
   Nausea/Vomiting
   Heparin Agents
   HIT Positive;
   Last dose of Antibiotics:
   Ceftriaxone - [**2193-10-28**] 08:00 AM
   Cefipime - [**2193-10-29**] 12:00 AM
   Vancomycin - [**2193-10-29**] 08:00 AM
   Rifampin - [**2193-10-29**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-10-28**] 09:00 AM
   Pantoprazole (Protonix) - [**2193-10-28**] 10:30 PM
   Morphine Sulfate - [**2193-10-28**] 11:00 PM
   Other medications:
   cholestyramine
   rifaxamin
   lactulose
   ursadiol
   SSI
   hydrocort 75mg q8h
   neupogen
   protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-10-29**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.7
C (96.2
   HR: 97 (89 - 140) bpm
   BP: 119/59(74) {105/57(71) - 134/75(88)} mmHg
   RR: 6 (6 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  4,606 mL
                                                                    752 mL
   PO:
           TF:
                                                                    541 mL
   IVF:
                                                                  2,970 mL
                                                                    336 mL
   Blood products:
                                                                    795 mL
                                                                    416 mL
   Total out:
                                                                  1,830 mL
                                                                    715 mL
   Urine:
                                                                  1,410 mL
                                                                    385 mL
   NG:
                                                                    150 mL
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                  2,776 mL
                                                                     37 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.46/46/81.[**Numeric Identifier 607**]/31/7
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l bases, Diminished:
   bases b/l)
   Abdominal: Soft, Non-tender
   Extremities: Right: 3+, Left: 3+
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): Name only, Movement: Not assessed, Tone: Not
   assessed, no asteriskis
   Labs / Radiology
   8.7 g/dL
   18 K/uL
   143 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.8 mEq/L
   27 mg/dL
   98 mEq/L
   136 mEq/L
   27
   0.7 K/uL
        [image002.jpg]
                            [**2193-10-27**]  04:00 PM
                            [**2193-10-27**]  08:34 PM
                            [**2193-10-28**]  04:52 AM
                            [**2193-10-28**]  03:00 PM
                            [**2193-10-28**]  08:14 PM
                            [**2193-10-28**]  09:48 PM
                            [**2193-10-29**]  12:29 AM
                            [**2193-10-29**]  03:00 AM
                            [**2193-10-29**]  05:54 AM
                            [**2193-10-29**]  05:58 AM
   WBC
   2.3
   1.8
   1.1
   0.7
   0.8
   0.7
   0.7
   Hct
   29.8
   29.1
   29.0
   26.5
   27.7
   27.0
   26
   24.9
   27
   Plt
   31
   32
   30
   17
   16
   33
   27
   18
   Cr
   0.6
   0.9
   1.0
   0.8
   TropT
   0.02
   TCO2
   34
   34
   Glucose
   184
   156
   144
   143
   Other labs: PT / PTT / INR:16.7/32.9/1.5, CK / CKMB /
   Troponin-T:29//0.02, ALT / AST:49/36, Alk Phos / T Bili:167/28.2,
   Amylase / Lipase:153/23, Differential-Neuts:80.0 %, Band:8.0 %,
   Lymph:12.0 %, Mono:0.0 %, Eos:0.0 %, D-dimer:2686 ng/mL, Fibrinogen:111
   mg/dL, Lactic Acid:1.9 mmol/L, Albumin:3.3 g/dL, LDH:235 IU/L,
   Ca++:10.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   Microbiology: pleural fluid:  with staph aureus
   [**10-26**] MRSA
   [**10-27**] 2 cultures with MRSA
   Assessment and Plan
   Coagulopathy:  Likely has component of DIC along with liver disease.
   Supportive care with transfusion of Plts, FFP, PRBCs, and
   cryoprecipitate as needed.  Transfuse Plts given GIB and low
   platelets again.
   GIB:  Is having bloody BMs.  Will transfuse PRBCs.
 ATRIAL FIBRILLATION (AFIB):  Currently in sinus.
   Primary Biliary Cirrhosis:  Observe for variceal bleeding.
   MRSA bacteremia:  Given that pleural fluid is also + for MRSA, this
   looks less likely to be just a line infection.  Check echo today to
   examine valves.
   Pancytopenia:  on neupogen, likely due to 6-MP and Remicade which are
   on hold.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 IMPAIRED SKIN INTEGRITY
 LIVER FUNCTION ABNORMALITIES
 [**Hospital 74**] HOSPITAL ACQUIRED (PROCEDURE RELATED, BAROTRAUMA):  CT
   with significant PTX, but was on water seal at the time.  Continue CT
   to suction.
   ICU Care
   Nutrition:
   Comments: Holding TFs while evidence of GIB.
   Glycemic Control:
   Lines:
   22 Gauge - [**2193-10-27**] 06:00 PM
   20 Gauge - [**2193-10-28**] 10:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2193-10-30 05:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - received platelets & 2 units PRBCs
   - pm vanc dose held
   - lasix 40 mg IV given with good response, came off non-rebreather,
   later received 250 cc NS bolus for tachycardia
   - after afternoon family visit patient decided to refuse further
   medical treatment and wanted to die.  She was A&O x3. Discussed with
   Dr. [**Last Name (STitle) 6688**] who also discussed with Dr. [**Last Name (STitle) 6379**] and transplant surgeon
   who all felt poor prognosis.  Husband called --> he and family came in
   --> family mtg and patient eventually made DNR/DNI.
   - pt. refused platelet transfusion, husband honoring that request
   Allergies:
   Demerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Morphine Sulfate
   Nausea/Vomiting
   Heparin Agents
   HIT Positive;
   Last dose of Antibiotics:
   Ceftriaxone - [**2193-10-28**] 08:00 AM
   Vancomycin - [**2193-10-29**] 08:00 AM
   Rifampin - [**2193-10-29**] 08:00 AM
   Cefipime - [**2193-10-30**] 12:08 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-10-29**] 10:00 AM
   Furosemide (Lasix) - [**2193-10-29**] 07:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-10-30**] 05:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 104 (94 - 108) bpm
   BP: 120/62(76) {110/59(74) - 151/83(94)} mmHg
   RR: 17 (6 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,270 mL
                                                                    487 mL
   PO:
             TF:
                                                                     86 mL
                                                                     54 mL
   IVF:
                                                                    750 mL
                                                                    354 mL
   Blood products:
                                                                  1,314 mL
   Total out:
                                                                  2,697 mL
                                                                    790 mL
   Urine:
                                                                  2,105 mL
                                                                    740 mL
   NG:
                                                                     62 mL
   Stool:
   Drains:
   Balance:
                                                                   -427 mL
                                                                   -303 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.46/46/81.[**Numeric Identifier 607**]/34/7
   Physical Examination
   Gen: Cachetic frail jaundiced, appears comfortable in no acute
   distress. Denies pain anywhere but is not oriented and is very
   somnolent
   HEENT: PERRL, EOMI, sclerae icteric, MM slightly dry
   CV: RRR no m/r/g. R EJ in place with dressing c/d./i
   Resp: Left sideded chest tube in place draining serosanguenous fluid.
   Echymosis over anterior chest wall.  Dressing clean, breath sounds
   present bilaterally w/wheezes at L apex.
   Abd: soft, less distended today, no bowel sounds, no pain on palpation,
   no rebound or guarding
   Extrem: 3+ pitting edema b/l to knees, worse compared to prior exam
   Skin: occasional ecchymoses, spider angiomas
   Neuro: somnolent, not oriented, clearly more confused this morning. No
   asterixis appreciated.  Repeats over and over that patient wants to
   in the right place
 but does not otherwise specify.
   Labs / Radiology
   21 K/uL
   10.9 g/dL
   161 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.4 mEq/L
   28 mg/dL
   100 mEq/L
   143 mEq/L
   31.6 %
   0.9 K/uL
        [image002.jpg]
                            [**2193-10-28**]  09:48 PM
                            [**2193-10-29**]  12:29 AM
                            [**2193-10-29**]  03:00 AM
                            [**2193-10-29**]  05:54 AM
                            [**2193-10-29**]  05:58 AM
                            [**2193-10-29**]  09:45 AM
                            [**2193-10-29**]  12:00 PM
                            [**2193-10-29**]  03:30 PM
                            [**2193-10-29**]  08:54 PM
                            [**2193-10-30**]  02:52 AM
   WBC
   0.7
   0.7
   0.7
   0.9
   0.8
   0.9
   Hct
   27.0
   26
   24.9
   27
   25.1
   28.6
   30.1
   31.6
   Plt
   33
   27
   18
   18
   36
   27
   14
   21
   Cr
   0.8
   0.8
   0.8
   0.6
   TropT
   0.02
   TCO2
   34
   34
   Glucose
   143
   147
   158
   161
   Other labs: PT / PTT / INR:17.8/32.8/1.6, CK / CKMB /
   Troponin-T:29//0.02, ALT / AST:48/41, Alk Phos / T Bili:168/30.5,
   Amylase / Lipase:153/23, Differential-Neuts:92.0 %, Band:0.0 %,
   Lymph:8.0 %, Mono:0.0 %, Eos:0.0 %, D-dimer:2686 ng/mL, Fibrinogen:144
   mg/dL, Lactic Acid:1.9 mmol/L, Albumin:3.2 g/dL, LDH:291 IU/L,
   Ca++:11.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 6410**] is a 61 yo F w/cirrhosis [**1-5**] UC/PSC, severe LGIB [**1-5**] UC,
   h/o HIT transferred from OSH with acute decompensated hepatic failure
   and anemia, found to have large left pneumothorax with concern for
   progression to tension PTX prompting emergent ICU transfer and CT
   placement.
   .
   #Acute Hepatic Decompensation/PBC - most likely [**1-5**] portal vein
   thrombosis seen on RUQ u/s on admission.  CT showed that clot extended.
   SMV still has some flow. Bowel wall thickening, intrahepatic, and
   esophageal varices noted as well.  Unfortunately given severe LGIB [**1-5**]
   ulcerative colitis patient is not a candidate for anticoagulation.
   Other possiblity could be SBP given h/o refractory ascites.  Could not
   tap b/c of low platelets but treating empirically with ceftriaxone.
   Switched to Cefipime for broadened coverage.  Not a transplant
   candidate currently due to UC and sepsis.  Patient with worsening
   mental status. Lactulose held last night in setting of UGI bleed,
   likely contributing to depressed mental status today.
   - give lactulose as BP tolerates, hold if multiple BMs as per
   hepatology
s recommendation.
   - hold paracentesis and treat empirically for SBP
   - additional hepatology recs: avoid morphine, give neupogen, hold 6-MP,
   Remicaid
   - f/u with GI and transplant surgery recommendations
   -continue cefipime to cover for SBP (day #1 = [**2193-10-26**])
   -continue lactulose, rifaxamin, ursodiol as tolerated
   -if hepatic failure improves would benefit from TIPS given portal vein
   thrombosis
   -if suspect variceal bleed, start octreotide drip and call hepatology
   asap (as per liver fellow recs)
   .
   # Thrombocytopenia/Coagulopathy: Likely secondary to liver disease c/w
   DIC/sepsis.  Patient given Neupogen last night.  Hematology consulted
   last night during episode of acute bleed.  Peripheral smear with
   schisocytes, several other types of dysmorphic RBCs.  Platelets down to
   13 in setting of acute bleed. Given 1 unit of platelets last night
   w/acute bleed, platelets 27 this am.  Also give FFP x2 units and 1 unit
   of cryoprecipitate given positive DIC labs.  No PRBC given yesterday
   b/c HCt maintained.   Bleeding from NG, foley has eased up, but patient
   has had several melanotic stools/BRBPR and bloody fluid from chest
   tube.  INR 1.8.  Neupogen given yesterday.
   -  1 unit platelets now
   - 2 U PRBC now
   - to consider FFP
   - re-check DIC labs (FDP, fibrinogen) -> consider cryoprecipitate based
   on results
   - repeat coags, Ch10 in am
   - will recheck CBC in the afternoon and consider platelet transfusion
   and FFP
   - f/u hematology recs
   .
   # Staph bacteremia - One blood culture bottle from OSH drawn from CVL
   is positive.  Culture here positive for coag positive SA in [**3-8**]
   bottles.  Line changed.  Chest CT showed no abcesses, although pleural
   fluid had many WBCs, now growing G+ cocci.  Skin exam shows no foci for
   bacteremia, though patient has Hx of MRSA skin infections.  Still
   unclear primary source of bacteremia.
   -continue vanc, day #1 = [**2193-10-26**]
   -serial blood cultures
   -check echo for potential source
   .
   #Pneumothorax - most likely slowly developing following placement of L
   subclavian line at OSH given no PTX, possibly progressing to
   hemodynamic compromise resulting in tachycardia and hypotension on the
   floor.  Now s/p chest tube placement with post CT xray showing
   reexpansion of her left lung.  Chest CT showed residual pneumothorax,
   but chest tube was sealed while at CT.  Again, post CT xray showed no
   pneumothorax.
   -continue chest tube to suction
   -monitor serial CXR's
   -f/u CT [**Doctor First Name 458**] reccs
   -when patient leaves to go to CT, will place on wall suction per CT
   surgery, will place back on suction and get repeat CXR this afternoon
   .
   #Atrial Fibrillation/Flutter - she has been going in and out PAF with
   rate up to 150's, BP stable since CT placed.  Has resolved with IVF,
   have avoided rate controlling agents for now given episodic hypotension
   and GI bleeding
   -continue to monitor on tele
   -IVF for tachycardia.
   .
   #. Ulcerative colitis: She has severe/refractory disease despite
   steroid treatment. Recently finished a course of cipro/flagyl as
   inpt/oupt.  Recently treated with remicaid on [**10-10**] followed by
   prednisone.
   - changed to stress dose hydrocoritsone
   - d/c mesalamine per liver reccs
   - hold remicade this week (last infused on [**10-10**]) in setting of
   pancytopenia.
   - hold 6MP in setting of pancytopenia
   - GI team aware and will see patient
   - continue to monitor HCT and transfuse PRBC, FFP, platelets prn with
   goal HCT >28 given continue bleeing.
   - per liver team consider KUB if develops increased bleeding to r/o
   toxic megacolon but will get CT scan today
   . .
   # FEN: NGT placed for tube feed to improve nutrition status, regular
   diet as well, replete lytes prn HRS
   .
   # Access: EJ in place, 2 PIV (22 and 20 gauge). Should consider placing
   larger bore IV for resuscitation before acute decompensation occurs.
   .
   #Code status: presumed Full Code. Should discuss with family in light
   of current health issues.
   .
   #Disposition: ICU
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2193-10-29**] 12:00 PM 10 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2193-10-27**] 06:00 PM
   20 Gauge - [**2193-10-28**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-10-30 12:38:00 Physician Attending Progress Note
Chief Complaint: HOTN
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo women with UC, PBC, MRSA sepsis
   24 Hour Events:
   developed respiratory distress in setting of colloid resuscitation.
   Responded to lasix,
   but then developed AF, so got 250cc NS bolus.  Patient subsequently
   improved.
   Patient was refusing platelets yesterday and refused CXR.
   Allergies:
   Demerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Morphine Sulfate
   Nausea/Vomiting
   Heparin Agents
   HIT Positive;
   Last dose of Antibiotics:
   Ceftriaxone - [**2193-10-28**] 08:00 AM
   Vancomycin - [**2193-10-29**] 08:00 AM
   Rifampin - [**2193-10-29**] 08:00 AM
   Cefipime - [**2193-10-30**] 12:08 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2193-10-29**] 07:37 PM
   Pantoprazole (Protonix) - [**2193-10-30**] 10:11 AM
   Other medications:
   cholestyramine
   rifaxamin
   lactuloise
   ursadiol
   SSI
   hydrocort
   neupongen
   protonix
   neutraphos
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-10-30**] 12:38 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (97
   HR: 111 (97 - 111) bpm
   BP: 131/75(88) {110/62(74) - 151/83(94)} mmHg
   RR: 21 (8 - 23) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,270 mL
                                                                    941 mL
   PO:
             TF:
                                                                     86 mL
                                                                    121 mL
   IVF:
                                                                    750 mL
                                                                    431 mL
   Blood products:
                                                                  1,314 mL
   Total out:
                                                                  2,697 mL
                                                                  1,195 mL
   Urine:
                                                                  2,105 mL
                                                                  1,115 mL
   NG:
                                                                     62 mL
   Stool:
   Drains:
   Balance:
                                                                   -427 mL
                                                                   -254 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///34/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l, Diminished: bases
   b/l)
   Abdominal: Non-tender, Distended
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): name and place, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.9 g/dL
   16 K/uL
   161 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.4 mEq/L
   28 mg/dL
   100 mEq/L
   143 mEq/L
   32.6 %
   0.9 K/uL
        [image002.jpg]
                            [**2193-10-29**]  12:29 AM
                            [**2193-10-29**]  03:00 AM
                            [**2193-10-29**]  05:54 AM
                            [**2193-10-29**]  05:58 AM
                            [**2193-10-29**]  09:45 AM
                            [**2193-10-29**]  12:00 PM
                            [**2193-10-29**]  03:30 PM
                            [**2193-10-29**]  08:54 PM
                            [**2193-10-30**]  02:52 AM
                            [**2193-10-30**]  08:29 AM
   WBC
   0.7
   0.7
   0.7
   0.9
   0.8
   0.9
   Hct
   27.0
   26
   24.9
   27
   25.1
   28.6
   30.1
   31.6
   32.6
   Plt
   27
   18
   18
   36
   27
   14
   21
   16
   Cr
   0.8
   0.8
   0.8
   0.6
   TropT
   0.02
   TCO2
   34
   34
   Glucose
   143
   147
   158
   161
   Other labs: PT / PTT / INR:17.8/32.8/1.6, CK / CKMB /
   Troponin-T:29//0.02, ALT / AST:48/41, Alk Phos / T Bili:168/30.5,
   Amylase / Lipase:153/23, Differential-Neuts:92.0 %, Band:0.0 %,
   Lymph:8.0 %, Mono:0.0 %, Eos:0.0 %, D-dimer:2686 ng/mL, Fibrinogen:144
   mg/dL, Lactic Acid:1.9 mmol/L, Albumin:3.2 g/dL, LDH:291 IU/L,
   Ca++:11.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB): Currently in sinus, but can start low
   dose beta blocker.
   Respiratory distress:  Pulmonary edema:  Check CXR and try and diurese
   PTX:  Has significant air leak in CT, check CXR
   MRSA sepsis:  Continue Vanco
   Cirrhosis:  Bili has stabilized at 30
   Coagulopathy:  Low grade DIC, continue to replete platelets.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2193-10-29**] 12:00 PM 10 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2193-10-27**] 06:00 PM
   20 Gauge - [**2193-10-28**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes

2193-10-31 06:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Family meeting, agreed no more blood transfusions, no more blood draws,
   no escalation of care, but continue Abx
   Continued to pass BRBPR
   Got 1 U platelets
   Vanc trough 20.4
   Allergies:
   Demerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Morphine Sulfate
   Nausea/Vomiting
   Heparin Agents
   HIT Positive;
   Last dose of Antibiotics:
   Ceftriaxone - [**2193-10-28**] 08:00 AM
   Rifampin - [**2193-10-29**] 08:00 AM
   Cefipime - [**2193-10-30**] 11:42 PM
   Vancomycin - [**2193-10-31**] 03:53 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-10-30**] 10:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-10-31**] 06:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.6
C (96
   HR: 85 (85 - 111) bpm
   BP: 128/75(88) {105/63(72) - 139/85(99)} mmHg
   RR: 17 (11 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,811 mL
                                                                    260 mL
   PO:
             TF:
                                                                    211 mL
   IVF:
                                                                    650 mL
                                                                    260 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  1,825 mL
                                                                    810 mL
   Urine:
                                                                  1,695 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -14 mL
                                                                   -550 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   Gen: Cachetic frail jaundiced, appears comfortable in no acute
   distress. Denies pain anywhere but is not oriented and is very
   somnolent
   HEENT: PERRL, EOMI, sclerae icteric, MM slightly dry
   CV: RRR no m/r/g. R EJ in place with dressing c/d./i
   Resp: Left sideded chest tube in place draining serosanguenous fluid.
   Echymosis over anterior chest wall.  Dressing clean, breath sounds
   present bilaterally w/wheezes at L apex.
   Abd: soft, distended, no bowel sounds, mild tenderness on palpation, no
   rebound or guarding
   Extrem: 3+ pitting edema b/l to knees
   Skin: occasional ecchymoses, spider angiomas
   Neuro: somnolent, not oriented, very confused. No asterixis
   appreciated.
   Labs / Radiology
   16 K/uL
   10.9 g/dL
   161 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.4 mEq/L
   28 mg/dL
   100 mEq/L
   143 mEq/L
   32.6 %
   0.9 K/uL
        [image002.jpg]
                            [**2193-10-29**]  12:29 AM
                            [**2193-10-29**]  03:00 AM
                            [**2193-10-29**]  05:54 AM
                            [**2193-10-29**]  05:58 AM
                            [**2193-10-29**]  09:45 AM
                            [**2193-10-29**]  12:00 PM
                            [**2193-10-29**]  03:30 PM
                            [**2193-10-29**]  08:54 PM
                            [**2193-10-30**]  02:52 AM
                            [**2193-10-30**]  08:29 AM
   WBC
   0.7
   0.7
   0.7
   0.9
   0.8
   0.9
   Hct
   27.0
   26
   24.9
   27
   25.1
   28.6
   30.1
   31.6
   32.6
   Plt
   27
   18
   18
   36
   27
   14
   21
   16
   Cr
   0.8
   0.8
   0.8
   0.6
   TropT
   0.02
   TCO2
   34
   34
   Glucose
   143
   147
   158
   161
   Other labs: PT / PTT / INR:17.8/32.8/1.6, CK / CKMB /
   Troponin-T:29//0.02, ALT / AST:48/41, Alk Phos / T Bili:168/30.5,
   Amylase / Lipase:153/23, Differential-Neuts:92.0 %, Band:0.0 %,
   Lymph:8.0 %, Mono:0.0 %, Eos:0.0 %, D-dimer:2686 ng/mL, Fibrinogen:144
   mg/dL, Lactic Acid:1.9 mmol/L, Albumin:3.2 g/dL, LDH:291 IU/L,
   Ca++:11.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 6410**] is a 61 yo F w/cirrhosis [**1-5**] UC/PSC, severe LGIB [**1-5**] UC,
   h/o HIT transferred from OSH with acute decompensated hepatic failure
   and anemia, found to have large left pneumothorax with concern for
   progression to tension PTX prompting emergent ICU transfer and CT
   placement.
   .
   #Acute Hepatic Decompensation/PBC - most likely [**1-5**] portal vein
   thrombosis seen on RUQ u/s on admission.  CT showed that clot extended.
   SMV still has some flow. Bowel wall thickening, intrahepatic, and
   esophageal varices noted as well.  Unfortunately given severe LGIB [**1-5**]
   ulcerative colitis patient is not a candidate for anticoagulation.
   Other possiblity could be SBP given h/o refractory ascites.  Could not
   tap b/c of low platelets but treating empirically with ceftriaxone.
   Switched to Cefipime for broadened coverage.  Not a transplant
   candidate currently due to UC and sepsis. Confirmed with Hepatology
   that even if patient recovers from bactermia/DIC, she will unlikely be
   a transplant candidate in the future.  Patient with worsening mental
   status. Lactulose given yesterday after UGI bleed ceased, mental status
   slightly improved this am (reported period of lucidity last night by on
   call person).  Family meeting w/team, hepatology, family decided to
   make patient [**Month/Day (2) 617**].  No further blood products to be given or invasive
   procedures to be performed as of 1600 on [**10-30**] (there is a note in the
   chart further clarifying this decision/discussion).
   - give lactulose as BP tolerates, hold if multiple BMs as per
   hepatology
s recommendation.
   - hold paracentesis and treat empirically for SBP
   - f/u with GI and transplant surgery recommendations
   -continue cefipime to cover for SBP (day #1 = [**2193-10-26**])
   -continue rifaxamin, ursodiol as tolerated
   .
   # Thrombocytopenia/Coagulopathy: Likely secondary to liver disease c/w
   DIC/sepsis.  Patient given Neupogen.  Hematology consulted.  Peripheral
   smear with schisocytes, several other types of dysmorphic RBCs.
   Platelets down to 13 in setting of acute bleed. Given 1 unit of
   platelets two days ago w/acute bleed, 1 unit of platelets and 2U of
   PRBC yesterday. Platelets down to 16 this am.  Also give FFP x2 units
   and 1 unit of cryoprecipitate given positive DIC labs two days ago.  No
   PRBC given yesterday b/c HCt maintained.   No bleeding from NG, foley
   for last 24h, but patient has had several melanotic stools/BRBPR and
   bloody fluid from chest tube.  INR 1.6.  Neupogen given two days ago
   and WBC today is 0.9.   This morning before patient was made [**Month/Day/Year 617**] she
   was given 1U of platelets.  DIC labs improved yesterday.
   -Because patient is [**Last Name (LF) 617**], [**First Name3 (LF) 178**] d/c serial Hcts, will not give any more
   platelets, FFP, or PRBCs.
   .
   # Staph bacteremia - One blood culture bottle from OSH drawn from CVL
   is positive.  Culture here positive for coag positive SA in [**3-8**]
   bottles.  Line changed.  Chest CT showed no abcesses, although pleural
   fluid had many WBCs, now growing G+ cocci.  Skin exam shows no foci for
   bacteremia, though patient has Hx of MRSA skin infections.  Still
   unclear primary source of bacteremia.
   -continue vanc, day #1 = [**2193-10-26**]
   -d/c serial blood cultures
   .
   #Pneumothorax - most likely slowly developing following placement of L
   subclavian line at OSH given no PTX, possibly progressing to
   hemodynamic compromise resulting in tachycardia and hypotension on the
   floor.  Now s/p chest tube placement with post CT xray showing
   reexpansion of her left lung.  Chest CT showed residual pneumothorax,
   but chest tube was sealed while at CT.  Again, post CT xray showed no
   pneumothorax.
   -continue chest tube to suction
   -d/c serial CXR's
   .
   #Atrial Fibrillation/Flutter - she has been going in and out PAF with
   rate up to 150's, BP stable since CT placed.  Has resolved with IVF,
   have avoided rate controlling agents for now given episodic hypotension
   and GI bleeding
   -IVF for tachycardia.
   .
   #. Ulcerative colitis: She has severe/refractory disease despite
   steroid treatment. Recently finished a course of cipro/flagyl as
   inpt/oupt.  Recently treated with remicaid on [**10-10**] followed by
   prednisone.
   - changed to stress dose hydrocoritsone
   - d/c mesalamine per liver reccs
   - hold remicade, 6MP
   .
   # FEN: NGT placed for tube feed to improve nutrition status, regular
   diet as well, replete lytes prn HRS
   .
   # Access: EJ in place, 2 PIV (22 and 20 gauge).
   .
   #Code status: DNR/DNI after discussion over last 24 hours. [**Month/Day (4) 617**] now w/no
   blood products to be given.
   .
   #Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2193-10-27**] 06:00 PM
   20 Gauge - [**2193-10-28**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-10-31 09:08:00 Physician Attending Progress Note
Chief Complaint: MRSA sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo women with UC, PBC, cirrhosis
   24 Hour Events:
   Decision made yesterday to pull back on care.
   No more blood products, no more blood draws.
   Patient with continued GIBleeding overnight.
   Allergies:
   Demerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Morphine Sulfate
   Nausea/Vomiting
   Heparin Agents
   HIT Positive;
   Last dose of Antibiotics:
   Rifampin - [**2193-10-29**] 08:00 AM
   Cefipime - [**2193-10-30**] 11:42 PM
   Vancomycin - [**2193-10-31**] 03:53 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-10-30**] 10:11 AM
   Other medications:
   cholestyramine
   vancomycin
   rifaxamin
   lactulose
   ursadiol
   SSI
   hydrocort
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-10-31**] 09:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 87 (85 - 111) bpm
   BP: 133/77(90) {105/63(72) - 139/85(99)} mmHg
   RR: 15 (11 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,811 mL
                                                                    350 mL
   PO:
             TF:
                                                                    211 mL
   IVF:
                                                                    650 mL
                                                                    290 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  1,825 mL
                                                                  1,030 mL
   Urine:
                                                                  1,695 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -14 mL
                                                                   -680 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Distended
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   16 K/uL
   161 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.4 mEq/L
   28 mg/dL
   100 mEq/L
   143 mEq/L
   32.6 %
   0.9 K/uL
        [image002.jpg]
                            [**2193-10-29**]  12:29 AM
                            [**2193-10-29**]  03:00 AM
                            [**2193-10-29**]  05:54 AM
                            [**2193-10-29**]  05:58 AM
                            [**2193-10-29**]  09:45 AM
                            [**2193-10-29**]  12:00 PM
                            [**2193-10-29**]  03:30 PM
                            [**2193-10-29**]  08:54 PM
                            [**2193-10-30**]  02:52 AM
                            [**2193-10-30**]  08:29 AM
   WBC
   0.7
   0.7
   0.7
   0.9
   0.8
   0.9
   Hct
   27.0
   26
   24.9
   27
   25.1
   28.6
   30.1
   31.6
   32.6
   Plt
   27
   18
   18
   36
   27
   14
   21
   16
   Cr
   0.8
   0.8
   0.8
   0.6
   TropT
   0.02
   TCO2
   34
   34
   Glucose
   143
   147
   158
   161
   Other labs: PT / PTT / INR:17.8/32.8/1.6, CK / CKMB /
   Troponin-T:29//0.02, ALT / AST:48/41, Alk Phos / T Bili:168/30.5,
   Amylase / Lipase:153/23, Differential-Neuts:92.0 %, Band:0.0 %,
   Lymph:8.0 %, Mono:0.0 %, Eos:0.0 %, D-dimer:2686 ng/mL, Fibrinogen:144
   mg/dL, Lactic Acid:1.9 mmol/L, Albumin:3.2 g/dL, LDH:291 IU/L,
   Ca++:11.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   Ulcerative colitis:  having GIB, no more blood draws or products
   PBC:  hold lactulose if having diarrhea
   MRSA bacteremia.  continue vanco for 14 days.
   DM:  D/C SS insulin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2193-10-27**] 06:00 PM
   20 Gauge - [**2193-10-28**] 10:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes